2185-05-25 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2185-5-24**] 09:45 AM
 ARTERIAL LINE - START [**2185-5-24**] 10:30 AM
 MULTI LUMEN - START [**2185-5-24**] 11:30 AM
 PAN CULTURE - At [**2185-5-25**] 03:00 AM
 FEVER - 101.4
F - [**2185-5-25**] 03:00 AM
   Had GD artery prophylactically embolized at IR. L IJ placed as well.
   Received total of 10U PRBCs, 2U FFP and 1U platelets. HCT stable with
   small amount of BRBPR overnight.
   Spiked T at 3AM. Cultures sent. Became tachycardic with drop in BP and
   decreased UO. Given 1.75L of fluid with some response.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2185-5-24**] 08:15 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2185-5-24**] 08:15 AM
   Fentanyl - [**2185-5-24**] 08:15 AM
   Pantoprazole (Protonix) - [**2185-5-24**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-25**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.1
C (100.6
   HR: 108 (66 - 134) bpm
   BP: 86/63(69) {86/52(60) - 117/83(88)} mmHg
   RR: 15 (0 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (13 - 13)mmHg
   Total In:
                                                                  7,258 mL
                                                                  2,199 mL
   PO:
   TF:
   IVF:
                                                                  1,173 mL
                                                                  2,199 mL
   Blood products:
                                                                  2,585 mL
   Total out:
                                                                  1,331 mL
                                                                    100 mL
   Urine:
                                                                    631 mL
                                                                    100 mL
   NG:
                                                                    700 mL
   Stool:
   Drains:
   Balance:
                                                                  5,927 mL
                                                                  2,099 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: Hemodynamic Instability
   PIP: 10 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: 7.41/33/138/22/-2
   Ve: 8.9 L/min
   PaO2 / FiO2: 394
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   82 K/uL
   8.5 g/dL
   148 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.9 mEq/L
   24 mg/dL
   109 mEq/L
   136 mEq/L
   31
   3.2 K/uL
        [image002.jpg]
                             [**2185-5-24**]  07:41 AM
                             [**2185-5-24**]  10:25 AM
                             [**2185-5-24**]  01:50 PM
                             [**2185-5-24**]  01:57 PM
                             [**2185-5-24**]  05:54 PM
                             [**2185-5-24**]  09:50 PM
                             [**2185-5-24**]  10:01 PM
                             [**2185-5-24**]  11:47 PM
                             [**2185-5-25**]  01:37 AM
                             [**2185-5-25**]  03:33 AM
   WBC
   3.7
   3.9
   3.2
   Hct
   23.4
   26.4
   23.4
   29.5
   30.7
   32.1
   32.7
   31
   Plt
   80
   72
   82
   Cr
   0.7
   0.8
   0.8
   TCO2
   23
   24
   23
   22
   Glucose
   148
   202
   148
   Other labs: PT / PTT / INR:15.4/35.5/1.4, Differential-Neuts:89.0 %,
   Band:0.0 %, Lymph:7.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:274 mg/dL,
   Lactic Acid:1.7 mmol/L, Ca++:7.4 mg/dL, Mg++:1.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   61 yo M with locally invasive cholangiocarcinoma who presented with
   brisk GI bleed.
   GI bleed: BRBPR and hematemesis.  He has a history of varices but also
   with ulcers at the site of his cholangiocarcinoma.  Underwent scope
   that did revealed large clot in duodenum with active bleeding. Source
   of bleeding could not be identified. However, was adjacent to stent.
   DDx includes tumor erosion into duodenum, hemobilia, or ulcer related
   to biliary stent. Underwent arteriogram that did not reveal source.
   However, gastroduodenal artery was prophylactically embolized.
   - Tx to keep hct >30 while acutely bleeding (baseline ~28)
   - Serial hcts
   - NPO
   - IV PPI
   - F/U GI recs
   - F/U surgery recs
   - Contact IR if begins bleeding. Consider embolization of R hepatic
   artery
   Fever: Spiked T overnight to 101.4. [**Month (only) 60**] have aspirated in setting of
   hematemesis and intubation. Given GI bleed, should also    consider
   translocation of gut bacteria. Cultures sent. UA negative. Started
   zosyn empirically.
   - F/U cultures
   - AM CXR to evaluate for pneumonitis vs focal consolidation
   - Tylenol PRN
   Respiratory: Intubated for airway protection. Consider SBT and
   extubation this AM as no further hematemesis.
   - Wean sedation
   - Attempt extubation this AM
   Hypotension: MAPs around 65. ? SIRS/Sepsis vs hypovolemia. Pressures
   initially responsive to fluids. CVP 8-13. HCT stable overnight. Would
   also consider PE given no Heparin SC in patient with malignancy though
   O2Sats are good and no evidence of A-a gradient.  Set of CE
s negative
   yesterday. EKG no evidence of R heart strain or S1Q3T3, though sinus
   tachy.
   - Infectious w/u
   - NS boluses PRN
   - Monitor serial Hcts
   - Pneumoboots
   - CXR
   - Consider CTA if stable
   Tachycardia: Diff includes fever, hypovolemia, pain. Tachycardia in
   setting of fever. Appeared responsive to fluids as well.
   - Monitor on TELE
   - IV fluid boluses prn
   Cholangiocarcinoma: s/p chemotherapy initiated 17 days ago (2nd
   treatment course).  Approx 13 days since last 5FU infusion.  Currently
   not neutropenic but with low platelets
   - transfuse plts if <50
   - consult onc
   - culture if spikes
   - will need to discuss plan of care with family as no surgical options
   if patient rebleeds
   Primary sclerosing cholangitis:  LFTs appear to be near baseline, but
   with elevated t bili  (likely secondary to bleeding)
   Thrombocytopenia: unclear etiology but could be in the setting of
   consumption with bleeding, decreased production with decreased bone
   marrow function, DIC.  For now will trend and transfuse with acute
   bleeding.
   FEN: NPO, IV fluid boluses PRN, repletelytes PRN,
   Dispo: ICU level care for now; plan for family meeting to discuss goals
   of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2185-5-24**] 07:32 AM
   Arterial Line - [**2185-5-24**] 10:30 AM
   Multi Lumen - [**2185-5-24**] 11:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-05-26 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2185-5-25**] 09:37 AM
   Extubated
   ID approval obtained for Zosyn
   UOP dropped to less than 10 cc / hr,  CVP 8-10, fluid challenged until
   CVP increased, 2 liters bolused and CVP went up from 8 to 13 with very
   slight increase in urine output- likely ATN
   LFTs, Amylase / Lipase relatively normal
   Urine lytes with a FeNa much less than 1%
   a-line not working, not transmitting pressures or drawing blood, cuff
   pressures seem good and CVP monitoring working
   hct stable 28.6 to 28.3
   2/4 bottles GNR from 3 a.m. [**5-25**] grew by 3 a.m. on [**5-26**].  Patient had
   already been started on zosyn since then.  Surveillance cultures sent
   for this a.m. and ordered for [**5-27**].
   UOP beginning to pick up slightly.
   Repeat hct down to 26, down from 28 which is down from 30.... very
   hemodynamically stable
   -wrote for 1 unit PRBC
   -wrote to type and cross match additional 2 units of blood
   Pt denies fever, chills, cough, abdominal pain. No BM in last 24 hours.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2185-5-24**] 08:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-5-26**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-5-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2185-5-26**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.6
   HR: 81 (77 - 101) bpm
   BP: 114/63(76) {104/52(67) - 120/85(89)} mmHg
   RR: 20 (11 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (1 - 15)mmHg
   Total In:
                                                                  6,037 mL
                                                                    171 mL
   PO:
   TF:
   IVF:
                                                                  5,756 mL
                                                                    171 mL
   Blood products:
                                                                    281 mL
   Total out:
                                                                    474 mL
                                                                    230 mL
   Urine:
                                                                    474 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,563 mL
                                                                    -59 mL
   Respiratory support
   O2 Delivery Device: None
   Vt (Set): 550 (550 - 550) mL
   SpO2: 96%
   ABG: ///20/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : R
   base), (Breath Sounds: Clear : , Diminished: at R base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   156 K/uL
   9.4 g/dL
   122 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.3 mEq/L
   32 mg/dL
   110 mEq/L
   138 mEq/L
   26.4 %
   1.7 K/uL
        [image002.jpg]
                             [**2185-5-24**]  09:50 PM
                             [**2185-5-24**]  10:01 PM
                             [**2185-5-24**]  11:47 PM
                             [**2185-5-25**]  01:37 AM
                             [**2185-5-25**]  03:33 AM
                             [**2185-5-25**]  04:36 AM
                             [**2185-5-25**]  11:08 AM
                             [**2185-5-25**]  04:54 PM
                             [**2185-5-25**]  11:00 PM
                             [**2185-5-26**]  05:00 AM
   WBC
   3.6
   3.2
   2.5
   1.7
   Hct
   30.7
   32.1
   32.7
   31
   29.0
   30.4
   28.6
   28.3
   26.4
   Plt
   133
   129
   151
   156
   Cr
   1.1
   0.9
   0.9
   TCO2
   23
   22
   Glucose
   135
   132
   122
   Other labs: PT / PTT / INR:12.0/26.4/1.0, ALT / AST:39/35, Alk Phos / T
   Bili:193/1.5, Amylase / Lipase:[**8-28**], Differential-Neuts:89.0 %, Band:0.0
   %, Lymph:7.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:274 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:187 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   61 yo M with locally invasive cholangiocarcinoma who presented with
   brisk GI bleed.
   GI bleed: No recurrent bleeding. Did have HCT drop overnight to 26.4.
   Concerned about slow ooze. Will receive 1 U PRBCs this AM.
   - Tx for Hct drop (baseline ~28)
   - Serial hcts
   - NPO- consider advancing to clears today if no procedure
   - IV PPI
   - F/U GI recs
   - F/U surgery recs
   - Contact IR if begins bleeding. Consider embolization of R hepatic
   artery per surgery, though further embolization increases his risk for
   ischemia.
   Fever/ GNR bacteremia: Afebrile overnight.  Grew GNRs in [**1-24**] culture
   bottles from yesterday. Empirically started on zosyn prior to cullture
   data.  Gut is likely source. However also with positive urine culture
   - F/U cultures and sensitivities.
   - Continue zosyn empirically
   - Tylenol PRN
   Hypotension: improved since yesterday. Aline not working.
   - d/c a line as pressures have been stable for almost 24 hrs.
   Tachycardia: improved
   Minimal urine output: Likely secondary to hypotension and poor forward
   flow. Creatinine stable at baseline of 0.9. FeNa less than 1%
   consistent with prerenal physiology.
   - Continue to monitor creatinine and urine output
   - will not bolus for low urine output
   Cholangiocarcinoma: s/p chemotherapy initiated 17 days ago (2nd
   treatment course).  Approx 13 days since last 5FU infusion. Per family
   meeting, patient wants aggressive care.
   - transfuse plts if <50
   - f/u onc recs, if any
   Primary sclerosing cholangitis:  LFTs appear to be near baseline, but
   with elevated t bili  (likely secondary to bleeding)
   Thrombocytopenia: Likely secondary to bleed as counts now stable and
   increasing.
   FEN: NPO, IV fluid boluses PRN, replete lytes PRN; Advance diet if no
   procedure
   Dispo: ICU level care for now; per family meeting aggressive care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2185-5-24**] 07:12 AM
   16 Gauge - [**2185-5-24**] 07:32 AM
   Arterial Line - [**2185-5-24**] 10:30 AM
   Multi Lumen - [**2185-5-24**] 11:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Leukopenia: Likely nadir from chemo. Could also be secondary to
   infection.
   -Trend CBC, ANC
   R pleural effusion: noted on cxr and decreased breath sounds on exam;
   - avoid fluid boluses for urine output as 3^rd spacing
   - incentive spirometry
   - monitor respiratory status
   ------ Protected Section Addendum Entered By:[**Name (NI) 153**] [**Last Name (NamePattern1) 2957**], MD
   on:[**2185-5-26**] 12:06 ------

2185-05-27 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2185-5-26**] 11:02 AM
   ERCP evalauted - holding on further procedure for now. Will observe
   over the weekend. HCT stable
   A line d/c'd.
   Started clear liquids without difficulty. Had one brown BM overnight
   with "old blood." Denied fevers, chills, abdominal pain.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2185-5-24**] 08:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-5-27**] 02:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-5-26**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-27**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 92 (61 - 92) bpm
   BP: 116/62(75) {105/60(71) - 139/82(95)} mmHg
   RR: 25 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (9 - 14)mmHg
   Total In:
                                                                  1,035 mL
                                                                    330 mL
   PO:
   TF:
   IVF:
                                                                    751 mL
                                                                    330 mL
   Blood products:
                                                                    284 mL
   Total out:
                                                                    600 mL
                                                                    290 mL
   Urine:
                                                                    600 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    435 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   245 K/uL
   10.2 g/dL
   139 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.7 mEq/L
   34 mg/dL
   110 mEq/L
   139 mEq/L
   28.8 %
   2.4 K/uL
        [image002.jpg]
                             [**2185-5-25**]  03:33 AM
                             [**2185-5-25**]  04:36 AM
                             [**2185-5-25**]  11:08 AM
                             [**2185-5-25**]  04:54 PM
                             [**2185-5-25**]  11:00 PM
                             [**2185-5-26**]  05:00 AM
                             [**2185-5-26**]  12:43 PM
                             [**2185-5-26**]  05:45 PM
                             [**2185-5-26**]  11:42 PM
                             [**2185-5-27**]  05:39 AM
   WBC
   3.6
   3.2
   2.5
   1.7
   2.4
   2.4
   Hct
   31
   29.0
   30.4
   28.6
   28.3
   26.4
   28.9
   29.9
   27.0
   28.8
   Plt
   133
   129
   151
   156
   213
   245
   Cr
   1.1
   0.9
   0.9
   1.0
   TCO2
   22
   Glucose
   135
   132
   122
   139
   Other labs: PT / PTT / INR:11.3/24.8/0.9, ALT / AST:39/35, Alk Phos / T
   Bili:193/1.5, Amylase / Lipase:[**8-28**], Differential-Neuts:89.0 %, Band:0.0
   %, Lymph:7.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:274 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:187 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:1.8
   mg/dL
   Assessment and Plan
   61 yo M with locally invasive cholangiocarcinoma who presented with
   brisk GI bleed.
   GI bleed: No recurrent bleeding. Did have HCT drop overnight to 26.4.
   Concerned about slow ooze. Will receive 1 U PRBCs this AM.
   - Tx for Hct drop (baseline ~28)
   - Serial hcts
   - NPO- consider advancing to clears today if no procedure
   - IV PPI
   - F/U GI recs
   - F/U surgery recs
   - Contact IR if begins bleeding. Consider embolization of R hepatic
   artery per surgery, though further embolization increases his risk for
   ischemia.
   Fever/ GNR bacteremia: Afebrile overnight.  Grew GNRs in [**1-24**] culture
   bottles from yesterday. Empirically started on zosyn prior to cullture
   data.  Gut is likely source. However also with positive urine culture
   - F/U cultures and sensitivities.
   - Continue zosyn empirically
   - Tylenol PRN
   Hypotension: improved since yesterday. Aline not working.
   - d/c a line as pressures have been stable for almost 24 hrs.
   Tachycardia: improved
   Minimal urine output: Likely secondary to hypotension and poor forward
   flow. Creatinine stable at baseline of 0.9. FeNa less than 1%
   consistent with prerenal physiology.
   - Continue to monitor creatinine and urine output
   - will not bolus for low urine output
   Cholangiocarcinoma: s/p chemotherapy initiated 17 days ago (2nd
   treatment course).  Approx 13 days since last 5FU infusion. Per family
   meeting, patient wants aggressive care.
   - transfuse plts if <50
   - f/u onc recs, if any
   Primary sclerosing cholangitis:  LFTs appear to be near baseline, but
   with elevated t bili  (likely secondary to bleeding)
   Thrombocytopenia: Likely secondary to bleed as counts now stable and
   increasing.
   FEN: NPO, IV fluid boluses PRN, replete lytes PRN; Advance diet if no
   procedure
   Dispo: ICU level care for now; per family meeting aggressive care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2185-5-24**] 07:12 AM
   16 Gauge - [**2185-5-24**] 07:32 AM
   Multi Lumen - [**2185-5-24**] 11:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2185-05-28 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ERCP - At [**2185-5-27**] 10:30 AM
 INVASIVE VENTILATION - START [**2185-5-27**] 10:30 AM
 ANGIOGRAPHY - At [**2185-5-27**] 01:30 PM
   Patient rebled during rounds yesterday. Given 2U PRBCs. Taken to ERCP
   where large bleeding ulcer was noted. Cauterized vessel. Taken to IR
   but no intervention performed. Abdomen became more distended but no
   evidence of perforation on CT scan. Intubated for airway protection
   prior to ERCP. Per wife, given patient
s poor prognosis and living
   will, goals of care were changed to comfort only. Patient was
   extubated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2185-5-27**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-5-28**] 02:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-5-27**] 08:12 AM
   Fentanyl - [**2185-5-28**] 04:17 AM
   Lorazepam (Ativan) - [**2185-5-28**] 04:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-28**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 74 (65 - 89) bpm
   BP: 89/61(68) {89/52(64) - 127/80(91)} mmHg
   RR: 16 (0 - 22) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 14 (14 - 18)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  4,016 mL
                                                                    173 mL
   PO:
   TF:
   IVF:
                                                                  2,779 mL
                                                                    173 mL
   Blood products:
                                                                  1,237 mL
   Total out:
                                                                  1,703 mL
                                                                    150 mL
   Urine:
                                                                    853 mL
                                                                    150 mL
   NG:
   Stool:
                                                                    850 mL
   Drains:
   Balance:
                                                                  2,313 mL
                                                                     23 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   SpO2: 92%
   ABG: 7.35/40/152/21/-3
   Ve: 9.3 L/min
   PaO2 / FiO2: 434
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, Distended, Firm
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   12.1 g/dL
   112 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.4 mEq/L
   33 mg/dL
   108 mEq/L
   137 mEq/L
   34.7 %
   2.8 K/uL
        [image002.jpg]
                             [**2185-5-25**]  04:54 PM
                             [**2185-5-25**]  11:00 PM
                             [**2185-5-26**]  05:00 AM
                             [**2185-5-26**]  12:43 PM
                             [**2185-5-26**]  05:45 PM
                             [**2185-5-26**]  11:42 PM
                             [**2185-5-27**]  05:39 AM
                             [**2185-5-27**]  09:55 AM
                             [**2185-5-27**]  01:15 PM
                             [**2185-5-27**]  04:11 PM
   WBC
   2.5
   1.7
   2.4
   2.4
   2.4
   2.8
   Hct
   28.6
   28.3
   26.4
   28.9
   29.9
   27.0
   28.8
   29.6
   34.7
   Plt
   151
   156
   213
   245
   192
   215
   Cr
   0.9
   0.9
   1.0
   1.0
   0.9
   TCO2
   23
   Glucose
   132
   122
   139
   109
   112
   Other labs: PT / PTT / INR:11.6/26.0/1.0, ALT / AST:39/45, Alk Phos / T
   Bili:442/1.9, Amylase / Lipase:[**8-28**], Differential-Neuts:67.0 %, Band:0.0
   %, Lymph:18.0 %, Mono:9.0 %, Eos:4.0 %, Fibrinogen:274 mg/dL, Lactic
   Acid:1.6 mmol/L, LDH:228 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   61 yo M with locally invasive cholangiocarcinoma who presented with
   brisk GI bleed. Patient rebled yesterday. Taken for endoscopy and
   electively intubated prior to procedure. Scope revealed large ulcerated
   tumor adjacent to ampulla with  bleeding. Underwent  cauterization and
   received epi. Achieved hemostasis but risk for rebleed was high. Taken
   to IR but no intervention performed at that time. En route to IR,
   patient's abdomen became extremely distended. XR negative for
   perforation. Unclear etiology of abdomen. CT scan revealed dilated
   bowel loops and large amount of free fluid in abdomen, but no evidence
   of bleed or perforation. Surgery consulted and felt patient is too high
   risk for any surgical intervention. As well, his blood cultures grew k.
   pneumoniae. Patient unable to make decisions for himself. Therefore per
   patient's living will and wife, his HCP, the decision was made to
   withdraw aggressive treatment and extubate the patient. This was
   performed last evening without complication. No further episodes of
   bleeding but risk of rebleed is about 80%. He remains minimally
   responsive despite no sedation. Abdomen is still tense. Team will
   continue with comfort measures only per family
s wishes and living
   will.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2185-5-24**] 07:12 AM
   16 Gauge - [**2185-5-24**] 07:32 AM
   Multi Lumen - [**2185-5-24**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:

2185-05-28 09:42:00 Physician Attending Progress Note
Chief Complaint: GI bleed from tumor erosion with exposed vessel in
   tumor in ampulla of duodenum
   Klebsiella bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 M with cholangiocarcinoma
   24 Hour Events:
 ERCP - At [**2185-5-27**] 10:30 AM
 INVASIVE VENTILATION - START [**2185-5-27**] 10:30 AM
 ANGIOGRAPHY - At [**2185-5-27**] 01:30 PM
   Family meetings with pt's wife concluded with her decision to extubate,
   make CMO, no blood products, no antibiotics, no labs. Only comfort
   measures.
   Extubated last night.
   Notes documented by residents, nurse [**First Name (Titles) **] [**Last Name (Titles) 3047**] care team.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2185-5-27**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-5-28**] 02:50 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2185-5-28**] 08:17 AM
   Lorazepam (Ativan) - [**2185-5-28**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: sedated
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2185-5-28**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 73 (65 - 89) bpm
   BP: 102/62(72) {89/52(64) - 127/80(91)} mmHg
   RR: 17 (0 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 14 (14 - 14)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  4,016 mL
                                                                    194 mL
   PO:
   TF:
   IVF:
                                                                  2,779 mL
                                                                    194 mL
   Blood products:
                                                                  1,237 mL
   Total out:
                                                                  1,703 mL
                                                                    225 mL
   Urine:
                                                                    853 mL
                                                                    225 mL
   NG:
   Stool:
                                                                    850 mL
   Drains:
   Balance:
                                                                  2,313 mL
                                                                    -31 mL
   Respiratory support
   O2 Delivery Device: None
   Physical Examination
   General Appearance: No acute distress, unarousable
   Eyes / Conjunctiva: No(t) Pupils dilated, anicteric
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant), left SC line appears
   good
   Abdominal: Distended, tight (though not tense) abdomen
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   12.1 g/dL
   215 K/uL
   112 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.4 mEq/L
   33 mg/dL
   108 mEq/L
   137 mEq/L
   34.7 %
   2.8 K/uL
        [image002.jpg]
                             [**2185-5-25**]  04:54 PM
                             [**2185-5-25**]  11:00 PM
                             [**2185-5-26**]  05:00 AM
                             [**2185-5-26**]  12:43 PM
                             [**2185-5-26**]  05:45 PM
                             [**2185-5-26**]  11:42 PM
                             [**2185-5-27**]  05:39 AM
                             [**2185-5-27**]  09:55 AM
                             [**2185-5-27**]  01:15 PM
                             [**2185-5-27**]  04:11 PM
   WBC
   2.5
   1.7
   2.4
   2.4
   2.4
   2.8
   Hct
   28.6
   28.3
   26.4
   28.9
   29.9
   27.0
   28.8
   29.6
   34.7
   Plt
   151
   156
   213
   245
   192
   215
   Cr
   0.9
   0.9
   1.0
   1.0
   0.9
   TCO2
   23
   Glucose
   132
   122
   139
   109
   112
   Other labs: PT / PTT / INR:11.6/26.0/1.0, ALT / AST:39/45, Alk Phos / T
   Bili:442/1.9, Amylase / Lipase:[**8-28**], Differential-Neuts:67.0 %, Band:0.0
   %, Lymph:18.0 %, Mono:9.0 %, Eos:4.0 %, Fibrinogen:274 mg/dL, Lactic
   Acid:1.6 mmol/L, LDH:228 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   Advanced cholangiocarcinoma at high risk of short term massive GI bleed
   with large vessel visible in tumor in duodenum.
   Appears very comfortable. Extubated with no respiratory issues now. PRN
   opiates for discomfort, pain.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2185-5-24**] 07:12 AM
   16 Gauge - [**2185-5-24**] 07:32 AM
   Multi Lumen - [**2185-5-24**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: 45 minutes, critically ill.

2185-05-29 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events: Pt receiving fentanyl and ativan for comfort. Pt. with
   increasing abdominal distention. Minimally responsive to verbal
   stimuli.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2185-5-27**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-5-28**] 02:50 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2185-5-29**] 06:29 AM
   Lorazepam (Ativan) - [**2185-5-29**] 06:29 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-29**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 78 (70 - 83) bpm
   BP: 141/74(90) {95/58(67) - 144/74(90)} mmHg
   RR: 20 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    340 mL
                                                                     75 mL
   PO:
             TF:
   IVF:
                                                                    340 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                    480 mL
                                                                    130 mL
   Urine:
                                                                    480 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -140 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present, (Right DP pulse: Present, (Left DP pulse: Present:
   Skin:  no lesions
   Neurologic: minimally responsive to verbal stimuli
   CV: RRR, no MRG
   Resp: crackles at bases b/l
   Abd: tense distention, BS present, typmanic to percussion, NT
   Ext: 2+ edema LE B/L
   Labs / Radiology
   215 K/uL
   12.1 g/dL
   112 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.4 mEq/L
   33 mg/dL
   108 mEq/L
   137 mEq/L
   34.7 %
   2.8 K/uL
        [image002.jpg]
                             [**2185-5-25**]  04:54 PM
                             [**2185-5-25**]  11:00 PM
                             [**2185-5-26**]  05:00 AM
                             [**2185-5-26**]  12:43 PM
                             [**2185-5-26**]  05:45 PM
                             [**2185-5-26**]  11:42 PM
                             [**2185-5-27**]  05:39 AM
                             [**2185-5-27**]  09:55 AM
                             [**2185-5-27**]  01:15 PM
                             [**2185-5-27**]  04:11 PM
   WBC
   2.5
   1.7
   2.4
   2.4
   2.4
   2.8
   Hct
   28.6
   28.3
   26.4
   28.9
   29.9
   27.0
   28.8
   29.6
   34.7
   Plt
   151
   156
   213
   245
   192
   215
   Cr
   0.9
   0.9
   1.0
   1.0
   0.9
   TCO2
   23
   Glucose
   132
   122
   139
   109
   112
   Other labs: PT / PTT / INR:11.6/26.0/1.0, ALT / AST:39/45, Alk Phos / T
   Bili:442/1.9, Amylase / Lipase:[**8-28**], Differential-Neuts:67.0 %, Band:0.0
   %, Lymph:18.0 %, Mono:9.0 %, Eos:4.0 %, Fibrinogen:274 mg/dL, Lactic
   Acid:1.6 mmol/L, LDH:228 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   61 yo M with locally invasive cholangiocarcinoma who presented with
   brisk GI bleed. Patient rebled [**5-27**]. Taken for endoscopy and electively
   intubated prior to procedure. Scope revealed large ulcerated tumor
   adjacent to ampulla with  bleeding. Underwent  cauterization and
   received epi. Achieved hemostasis but risk for rebleed was high. Taken
   to IR but no intervention performed at that time. En route to IR,
   patient's abdomen became extremely distended. XR negative for
   perforation. Unclear etiology of abdomen. CT scan revealed dilated
   bowel loops and large amount of free fluid in abdomen, but no evidence
   of bleed or perforation. Surgery consulted and felt patient is too high
   risk for any surgical intervention. As well, his blood cultures grew k.
   pneumoniae. Patient unable to make decisions for himself. Therefore per
   patient's living will and wife, his HCP, the decision was made to
   withdraw aggressive treatment and extubate the patient. This was
   performed last evening without complication. No further episodes of
   bleeding but risk of rebleed is about 80%. He remains minimally
   responsive despite no sedation. Abdomen is still tense. Team will
   continue with comfort measures only per family
s wishes and living
   will. Continue fentanyl and ativan prn.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2185-5-24**] 07:12 AM
   16 Gauge - [**2185-5-24**] 07:32 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above. Key point is Mr [**Known lastname **]
   appears very comfortable, minimally responsive, abdomen tense.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2185-5-29**] 18:54 ------

2185-05-30 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No overnight events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2185-5-27**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-5-28**] 02:50 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2185-5-30**] 01:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-30**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 74 (69 - 97) bpm
   BP: 109/63(74) {94/54(64) - 122/74(91)} mmHg
   RR: 19 (16 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    240 mL
                                                                     13 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                     13 mL
   Blood products:
   Total out:
                                                                    310 mL
                                                                     90 mL
   Urine:
                                                                    310 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -70 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : ), anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present, less distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): person, place, time:month, year but not day, Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   215 K/uL
   12.1 g/dL
   112 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.4 mEq/L
   33 mg/dL
   108 mEq/L
   137 mEq/L
   34.7 %
   2.8 K/uL
        [image002.jpg]
                             [**2185-5-25**]  04:54 PM
                             [**2185-5-25**]  11:00 PM
                             [**2185-5-26**]  05:00 AM
                             [**2185-5-26**]  12:43 PM
                             [**2185-5-26**]  05:45 PM
                             [**2185-5-26**]  11:42 PM
                             [**2185-5-27**]  05:39 AM
                             [**2185-5-27**]  09:55 AM
                             [**2185-5-27**]  01:15 PM
                             [**2185-5-27**]  04:11 PM
   WBC
   2.5
   1.7
   2.4
   2.4
   2.4
   2.8
   Hct
   28.6
   28.3
   26.4
   28.9
   29.9
   27.0
   28.8
   29.6
   34.7
   Plt
   151
   156
   213
   245
   192
   215
   Cr
   0.9
   0.9
   1.0
   1.0
   0.9
   TCO2
   23
   Glucose
   132
   122
   139
   109
   112
   Other labs: PT / PTT / INR:11.6/26.0/1.0, ALT / AST:39/45, Alk Phos / T
   Bili:442/1.9, Amylase / Lipase:[**8-28**], Differential-Neuts:67.0 %, Band:0.0
   %, Lymph:18.0 %, Mono:9.0 %, Eos:4.0 %, Fibrinogen:274 mg/dL, Lactic
   Acid:1.6 mmol/L, LDH:228 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   61 yo M with cholangiocarcinoma here with GI bleed seconary to large
   ulcerated tumor s/p cauterization on Friday with high likelihood of
   rebleed. Also with klebsiella bacteremia. Patient was made CMO over the
   weekend given his poor prognosis with minimal interventional options if
   he were to rebleed.
   - Continue with comfort care
   - Palliative care recs
   - Family meeting
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2185-5-24**] 07:12 AM
   16 Gauge - [**2185-5-24**] 07:32 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above.
   Mr [**Known lastname **] appears comfortable. Actually more alert today than the past
   two days. Episode of melena this afternoon. No pain or respiratory
   distress.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2185-5-30**] 17:37 ------

2185-05-31 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Fam meeting- OK to call out to 7  [**Hospital Ward Name **]
   Wife needs to be in room when information communicated to patient
   Not transferred o/n as wife was not here
   Patient progressively more jaundiced
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: Abdominal pain, + abd  bloating
   Flowsheet Data as of  [**2185-5-31**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 96 (70 - 100) bpm
   BP: 113/66(78) {95/56(66) - 124/87(95)} mmHg
   RR: 22 (18 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                     13 mL
                  PO:
                  TF:
   IVF:
                                                                     13 mL
   Blood products:
   Total out:
                                                                    280 mL
                                                                    120 mL
   Urine:
                                                                    280 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -268 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended, moderately distended but non tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   12.1 g/dL
   112 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.4 mEq/L
   33 mg/dL
   108 mEq/L
   137 mEq/L
   34.7 %
   2.8 K/uL
        [image002.jpg]
                             [**2185-5-25**]  04:54 PM
                             [**2185-5-25**]  11:00 PM
                             [**2185-5-26**]  05:00 AM
                             [**2185-5-26**]  12:43 PM
                             [**2185-5-26**]  05:45 PM
                             [**2185-5-26**]  11:42 PM
                             [**2185-5-27**]  05:39 AM
                             [**2185-5-27**]  09:55 AM
                             [**2185-5-27**]  01:15 PM
                             [**2185-5-27**]  04:11 PM
   WBC
   2.5
   1.7
   2.4
   2.4
   2.4
   2.8
   Hct
   28.6
   28.3
   26.4
   28.9
   29.9
   27.0
   28.8
   29.6
   34.7
   Plt
   151
   156
   213
   245
   192
   215
   Cr
   0.9
   0.9
   1.0
   1.0
   0.9
   TCO2
   23
   Glucose
   132
   122
   139
   109
   112
   Other labs: PT / PTT / INR:11.6/26.0/1.0, ALT / AST:39/45, Alk Phos / T
   Bili:442/1.9, Amylase / Lipase:[**8-28**], Differential-Neuts:67.0 %, Band:0.0
   %, Lymph:18.0 %, Mono:9.0 %, Eos:4.0 %, Fibrinogen:274 mg/dL, Lactic
   Acid:1.6 mmol/L, LDH:228 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   61 yo M with cholangiocarcinoma here with GI bleed seconary to large
   ulcerated tumor s/p cauterization on Friday with high likelihood of
   rebleed. Also with klebsiella bacteremia. Patient was made CMO over the
   weekend given his poor prognosis with minimal interventional options if
   he were to rebleed.
   - Continue with comfort care
   - Palliative care recs
   - Family meeting
   -lasix for comfort
   -simethicone, attempt at antiemetics
   -transfer to [**Hospital Ward Name **] 7
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2185-5-24**] 07:12 AM
   16 Gauge - [**2185-5-24**] 07:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:Transfer to floor
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  PMH, SH, FH are
   unchanged from admission except where noted above and below. ROS sig
   for abdominal bloating, tightness, fatigue, chest pain. Otherwise
   negative in detail. Mr [**Known lastname **] appears very comfortable.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2185-5-31**] 16:18 ------